US08119800B2
To a stirred solution of 1-bromo-3-(bromomethyl)-5-methylbenzene (6.56 kg, 0.1515 M) in ethanol (20 L) were added potassium cyanide (2.38 kg, 36.55 mol) and distilled water (10 L) in this order. The mixture was refluxed for 3 hours. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was partitioned between ethyl acetate (30 L) and brine (20 L). The organic layer was dried with magnesium sulfate (2 kg) and concentrated under reduced pressure to give a brown-colored oil. The crude product was purified by silica gel column chromatography (eluent: ethyl acetate/hexane, 1:9) to afford 3-bromo-5-methylbenzyl cyanide (2.06 kg, 9.81 mol, 39%) as a pale brown oil.

reactant | 1-bromo-3-(bromomethyl)-5-methylbenzene | 0.1515 M, 6.56 kg | BrC1=CC(=CC(=C1)C)CBr | C8H8Br2
reactant | potassium cyanide | 36.55 mol, 2.38 kg | [C-]#N.[K+]
solvent | ethanol | 20 L | C(C)O | C2H6O
product | 3-bromo-5-methylbenzyl cyanide | 9.81 mol, 2.06 kg, 39% | BrC=1C=C(CC#N)C=C(C1)C | C9H8BrN
